US08293768B2
Synthesis of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-4-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 4-fluorobenzylamine with 4-(aminomethyl)pyridine to react with 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white powder in 49% yield: mp 96-97° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.47 (d, J=4.8 Hz, 2H), 7.31-7.19 (m, 7H), 6.52 (t, J=5.7 Hz, 1H), 4.53 (d, J=5.7 Hz, 2H), 4.35 (s, 2H), 4.02 (t, J=7.5 Hz, 2H), 3.41 (t, J=7.5 Hz, 2H), 2.56 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 162.8, 157.5, 155.3, 153.7, 149.7, 147.7, 135.4, 128.9, 128.2, 128.0, 122.3, 116.7, 47.9, 42.6, 42.0, 41.6, 17.3; MS (ES+) m/z 408.3 (M+1).

reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | 4-(aminomethyl)pyridine | NCC1=CC=NC=C1 | C6H8N2
reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
product | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-4-ylmethyl)thiazole-5-carboxamide | 49% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC=NC=C1)=O | C21H21N5O2S
